US04120864
4-n-Butylthiosemicarbazide (20.0 g. or 0.136 mole) was heated to reflux with a solution of methanol (100 ml.), sodium methoxide (7.55 g. or 0.140 mole) and ethyl formate (20.7 g. or 0.280 mole). After 8 and 16 hours, 10 ml. and 5 ml. of ethyl formate was added to the refluxing solution. After 24 hours total reflux, the solvent was removed under reduced pressure and the residue was dissolved in water (100 ml.). The pH of the solution was adjusted to about 12 with 50% sodium hydroxide solution. This solution was then heated on a steam bath for 45 minutes, cooled and acidified with dilute hydrochloric acid. The resulting oil was extracted into ether. The ether was dried over sodium sulphate and removed under vacuum. The resulting oil was crystallized from ether-hexane to give 11.8 g. (55% yield) of 3-mercapto-4-n-butyl-1,2,4-triazole, m.p. 67°-69° C. The structure was confirmed by its nuclear magnetic resonance spectrum and its mass spectrum.

reactant | 4-n-Butylthiosemicarbazide | 0.136 mole, 20.0 g | C(CCC)NC(NN)=S | C5H13N3S
reactant | sodium methoxide | 0.140 mole, 7.55 g | C[O-].[Na+]
reactant | ethyl formate | 0.280 mole, 20.7 g | C(=O)OCC | C3H6O2
solvent | methanol | 100 ml | CO | CH4O
product | 3-mercapto-4-n-butyl-1,2,4-triazole | 55% yield | SC1=NN=CN1CCCC | C6H11N3S
